US07973012B2
(2) Preparation of (1S)-1,5-anhydro-1-[2-hydroxy-5-[4-[4-[[2-hydroxy-1-(hydroxymethyl)-1-methylethyl]amino]-4-oxobutyl]benzyl]-4-methylphenyl]-D-glucitol
To a methanol solution (1 mL) of (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-5-[4-[(1E)-4-[[2-hydroxy-1-(hydroxymethyl)-1-methylethyl]amino]-4-oxobut-1-en-1-yl]benzyl]-4-methylphenyl]-D-glucitol (91 mg, 0.0926 mmol) was added 10% palladium-activated carbon (16 mg), and the mixture was stirred overnight under a hydrogen atmosphere at room temperature. The reaction solution was filtered through celite, and evaporated under reduced pressure to obtain a residue. Thus obtained residue was dissolved in methanol (1 mL). And 20% palladium hydroxide (91 mg) was added thereto, and the mixture was stirred under hydrogen atmosphere at room temperature for 2 days. The reaction solution was filtered through celite, and evaporated under reduced pressure to obtain a residue. Thus obtained residue was purified with silica gel column chromatography (chloroform:methanol=5:1) to obtain the title compound (32 mg, 65%) as a colorless powder. NMR data and MS data of the compound are shown in Table 1.

reactant | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-5-[4-[(1E)-4-[[2-hydroxy-1-(hydroxymethyl)-1-methylethyl]amino]-4-oxobut-1-en-1-yl]benzyl]-4-methylphenyl]-D-glucitol | 0.0926 mmol, 91 mg | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)\C=C\CC(=O)NC(CO)(C)CO)C)OCC1=CC=CC=C1 | C63H67NO9
solvent | methanol | 1 mL | CO | CH4O
catalyst | palladium-activated carbon | 16 mg | [Pd] | Pd
catalyst | palladium hydroxide | 91 mg | [OH-].[Pd+2].[OH-]
solvent | methanol | 1 mL | CO | CH4O
product | (1S)-1,5-anhydro-1-[2-hydroxy-5-[4-[4-[[2-hydroxy-1-(hydroxymethyl)-1-methylethyl]amino]-4-oxobutyl]benzyl]-4-methylphenyl]-D-glucitol | 32 mg, 65% | OC1=C(C=C(C(=C1)C)CC1=CC=C(C=C1)CCCC(=O)NC(CO)(C)CO)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C28H39NO9
